US04015007
An amount of 20 g (0.244 mole) of sodium acetate and 18 g (0.100 mole) of spiro[bicyclo[2.2.2]octane2,3'-piperidine] is dissolved in 100 ml of water and 300 ml of acetone. A two-phase system is formed, to which is added dropwise at 0° to 5° an amount of 10.2 ml (14.4 g, 0.13 mole) of chloroacetyl chloride. An addition is then made to the mixture, at 0° to 5°, of 700 ml of water, whereupon the reaction product precipitates in flake form. Stirring is maintained for a further hour and the reaction product subsequently filtered off. After washing and then drying of the product over phosphorus pentoxide in a desiccator, there is obtained 1'-chloroacetyl-spiro [bicyclo[2.2.2]octane-2,3'-piperidine], M.P. 63° (with decomposition).

reactant | sodium acetate | 0.244 mole, 20 g | C(C)(=O)[O-].[Na+]
reactant | spiro[bicyclo[2.2.2]octane2,3'-piperidine] | 0.100 mole, 18 g | N1CC2(CCC1)C1CCC(C2)CC1 | C12H21N
reactant | chloroacetyl chloride | 0.13 mole, 10.2 ml, 14.4 g | ClCC(=O)Cl | C2H2Cl2O
solvent | water | 100 ml | O | H2O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
solvent | water | 700 ml | O | H2O
product | 1'-chloroacetyl-spiro [bicyclo[2.2.2]octane-2,3'-piperidine] | ClCC(=O)N1CC2(CCC1)C1CCC(C2)CC1 | C14H22ClNO
